US05728370
Bis-(8-carboxy-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxol-4-yl)-mono-(8-carboxy-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiol-4-yl) methanol
Dry TMEDA (1.21 mL, 8.04 mmol) and t-butyllithium (5.36 mL, 1.5M in pentane) were dissolved in dry cyclohexane (12 mL) at 0° C. Bis-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxol-4-yl)-mono-(2,2,6,6-tetramethyl benzo[1,2-d:4,5-d']-bis(1,3)dithiol-4-yl)methanol (0.608 g, 0.804 mmol) was then added at ambient temperature as a solid. After 20 min, solid carbon dioxide was added followed by dry ether (50 mL). After stirring for 17 h, the reaction mixture was filtered and the precipitate was dried. The acid was purified by preparative HPLC.

reactant | TMEDA | 8.04 mmol, 1.21 mL | CN(C)CCN(C)C | C6H16N2
reactant | t-butyllithium | 1.5M, 5.36 mL | C(C)(C)(C)[Li]
reactant | Bis-(2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxol-4-yl)-mono-(2,2,6,6-tetramethyl benzo[1,2-d:4,5-d']-bis(1,3)dithiol-4-yl)methanol | 0.804 mmol, 0.608 g | CC1(OC2=C(O1)C(=C1C(OC(O1)(C)C)=C2)C(O)(C2=C1C(SC(S1)(C)C)=CC1=C2SC(S1)(C)C)C1=C2C(OC(O2)(C)C)=CC2=C1OC(O2)(C)C)C | C37H40O9S4
reactant | carbon dioxide | C(=O)=O | CO2
solvent | cyclohexane | 12 mL | C1CCCCC1 | C6H12
solvent | ether | 50 mL | CCOCC | C4H10O
product | Bis-(8-carboxy-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dioxol-4-yl)-mono-(8-carboxy-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']-bis(1,3)dithiol-4-yl) methanol | C(=O)(O)C1=C2OC(OC2=C(C=2OC(OC21)(C)C)C(O)(C2=C1C(SC(S1)(C)C)=C(C1=C2SC(S1)(C)C)C(=O)O)C1=C2C(OC(O2)(C)C)=C(C2=C1OC(O2)(C)C)C(=O)O)(C)C | C40H40O15S4
